US07001897B2
To a solution of 1-[4-(furan-2-carbonylamino)methyl-1,3-thiazol-2-yl]-3-hydroxyazetidine (426 mg, 1.72 mmol) (obtained as described in Reference Example 67(2)) in methylene chloride (20 ml) were added methanesulfonyl chloride (0.16 ml, 2.07 mmol) and triethylamine (0.29 ml, 2.07 mmol) in an ice bath and the mixture was stirred for 1 hour. After checking the completion of the reaction, the mixture was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using ethyl acetate:methanol (20:1) as the eluant to afford 1-[4-(furan-2-carbonylamino)methyl-1,3-thiazol-2-yl]-3-methanesulfonyloxyazetidine (481 mg, yield 78%) as a pale yellow solid.

reactant | 1-[4-(furan-2-carbonylamino)methyl-1,3-thiazol-2-yl]-3-hydroxyazetidine | 1.72 mmol, 426 mg | O1C(=CC=C1)C(=O)NCC=1N=C(SC1)N1CC(C1)O | C12H13N3O3S
reactant | methanesulfonyl chloride | 2.07 mmol, 0.16 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 2.07 mmol, 0.29 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-[4-(furan-2-carbonylamino)methyl-1,3-thiazol-2-yl]-3-methanesulfonyloxyazetidine | 481 mg, yield 78% | O1C(=CC=C1)C(=O)NCC=1N=C(SC1)N1CC(C1)OS(=O)(=O)C | C13H15N3O5S2
